US04279912
2 g of ethylimidazo-[1,2-a]-quinoline-2-carboxylate were suspended in 40 ml of ethanol and 20 ml of water and 9 ml of N NaOH were added. The mixture was heated on a steam bath for 30 minutes and the hot solution was acidified with 9.5 ml of N hydrochloric acid. The mixture was cooled slowly to room temperature and then in ice to give colorless needles of imidazo-[1,2-a]-quinoline-2-carboxylic acid monohydrate melting at 234°-236° C. The I.R. spectrum suggested that the compound existed partially in the zwitterionic form.

reactant | ethylimidazo-[1,2-a]-quinoline-2-carboxylate | 2 g | C(C)OC(=O)C=1N=C2N(C3=CC=CC=C3C=C2)C1 | C14H12N2O2
reactant | water | 20 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | imidazo-[1,2-a]-quinoline-2-carboxylic acid monohydrate | O.C1=C(N=C2N1C1=CC=CC=C1C=C2)C(=O)O | InChI=1S/C12H8N2O2.H2O/c15-12(16)9-7-14-10-4-2-1-3-8(10)5-6-11(14)13-9;/h1-7H,(H,15,16);1H2
